US04387103
Methyl 4-(2,3-Epoxypropoxy)benzoate
A mixture of 15.2 gm (0.1 mole) of methyl 4-hydroxybenzoate, 27.6 gm (0.2 mole) potassium carbonate and 31 mL (0.4 mole) epichlorohydrin in 250 mL acetone was heated to reflux for 24 hours. The reaction medium was then filtered and evaporated. The residue was taken up in 100 mL toluene and washed with 100 mL 1.0 N NaOH and 2×100 mL water. The toluene phase was then dried over magnesium sulfate and evaporated to provide the crude product as an oil. Purification was effected by vacuum distillation (66°-67°; 75 u pressure) and provided 14 gm (67%) of a clear oil when gradually crystallized at room temperature: mp 54°-55° C. The NMR and IR spectra and elemental analysis data were consistent with the assigned structure.

reactant | methyl 4-hydroxybenzoate | 0.1 mole, 15.2 gm | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | potassium carbonate | 0.2 mole, 27.6 gm | C([O-])([O-])=O.[K+].[K+]
reactant | epichlorohydrin | 0.4 mole, 31 mL | C(Cl)C1CO1 | C3H5ClO
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | Methyl 4-(2,3-Epoxypropoxy)benzoate | 14 gm, 67% | O1C(COC2=CC=C(C(=O)OC)C=C2)C1 | C11H12O4
